Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Altered mental status 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with a PMH bipolar disorder with psychotic features, on 
section at psychiatric facility (___ HRI) for disorganized 
behavior, presents with AMS. Per facility's report, patient was 
admitted after being brought in by police for walking through 
the streets removing her clothing. On evening prior to 
admission, patient refused medications including unknown 
antibiotic for UTI (upon review of med list with facility RN, no 
abx on current med list). On day of presentation, patient was 
found minimally responsive at facility and transferred to ___ 
ED. ___ denied fall, headstrike, trauma, med changes, 
access to meds. 

In ED, initial vs were 98.4 59 106/64 20 100%. Patient was 
initially unresponsive, but withdrawing from pain, no abnormal 
movements. Received 2mg IV narcan - no response, pt awoke 30 min 
later, unclear if narcan contributed but unlikely, pupils never 
constricted, RR ___ before narcan. Serum tox negative. Head CT 
and CXR negative. EKG: sinus @ 56, NA/NI, no st changes. Labs no 
acidosis and lithium therapeutic. Upon awakening, patient said 
she was not a patient and works at a mental hospital "seeing my 
clients." Was A&O to person and date, not place.
  
On arrival to the floor, VS 97.4, 104/62, 57, 16, 100. Patient 
is without complaints.
 
Past Medical History:
HTN
Bipolar disorder with psychotic features
?Dystonic reaction
?Tremor

 
Social History:
___
Family History:
Unable to obtain. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 

VS 97.4 104/62 57 16 100%
GEN Patient is alert, A+O x 1 (name), altered but interactive, 
very cooperative 
HEENT NCAT, pupils not dilated, equal, round, and reactive to 
light and accomodation, EOMI with prompting, MM dry, diffuse 
white patches on tongue and hard palate 
NECK supple, no JVD, no LAD  
PULM Good aeration, CTAB no wheezes, rales, ronchi  
CV RRR normal S1/S2, no mrg
ABD soft NT ND normoactive bowel sounds, no r/g. Notably, 
patient has dark tan lines from sunbathing in a bikini.  
EXT WWP 2+ pulses palpable bilaterally, no c/c, trace edema to 
mid calf. 
NEURO/PSYCH CNs2-12 intact, diffusely hyperreflexic, + 
cogwheeling of UE, strength ___. A+O x1. Speech is fluent but 
endorses significant delusions (e.g. patient is volunteer at 
___), responds to questions appropriately, no repetitive 
movements. States mood has been very good lately, not depressed, 
no SI/HI. Denied AH/VH. At one point during exam, appeared to 
respond to internal stimulus then quickly recovered ___ 
seconds) and resumed conversation. 

DISCHARGE PHYSICAL EXAM: 

VS 98.5 108/55 89 17 100 RA
GEN Less Parkinsonian, more agitated than prior day, trying to 
climb out of bed during my exam 
PULM Good aeration, CTAB no wheezes, rales, ronchi  
CV RRR normal S1/S2, no mrg
ABD soft NT ND normoactive bowel sounds, no r/g. 
NEURO/PSYCH Speech is fluent. A+O x1 (name), does not know date 
and thinks she is at her friend's house. Resting hand tremor 
improved, masked face improved, gait not assessed today.
 
Pertinent Results:
ADMISSION LABS: 

___ 02:00PM BLOOD WBC-9.9 RBC-3.82* Hgb-12.9 Hct-38.0 
MCV-99* MCH-33.6* MCHC-33.8 RDW-12.8 Plt ___
___ 02:00PM BLOOD Neuts-75.3* Lymphs-17.9* Monos-6.0 
Eos-0.2 Baso-0.6
___ 02:00PM BLOOD ___ PTT-19.9* ___
___ 02:00PM BLOOD Glucose-87 UreaN-19 Creat-1.0 Na-137 
K-5.7* Cl-102 HCO3-23 AnGap-18
___ 02:00PM BLOOD ALT-13 AST-28 AlkPhos-47 TotBili-0.6
___ 02:00PM BLOOD Albumin-4.4 Calcium-10.7* Phos-4.7* 
Mg-2.3
___ 02:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

STUDIES: 

CXR- No acute intrathoracic process
CT Head w/o Contrast-  No evidence of hemorrhage or other acute 
intracranial abnormality on this non-contrast head CT. 
EEG- ordered 

DISCHARGE LABS: N/A
 
Brief Hospital Course:
___ with PMH HTN, bipolar with psychotic features is transferred 
from psychiatric facility for AMS after being found minimally 
responsive now much improved. 

ACUTE ISSUES: 

1. Acute encephalopathy: Patient received an extensive work up 
to evaluate for infectious, toxic, and metabolic etiologies of 
her AMS which has been negative to date. Specifically, toxic 
ingestions, hypothyroidism, electrolyte abnormalities, 
neurosyphilis were ruled out, and a head CT was negative for 
acute intracranial abnormalities. We have held medications with 
concern for anticholinergic toxicity and and she has improved. 
She had one episode of hypotension that resoved with fluids and 
has otherwise remained hemodynamically stable and her acute 
encephalopathy has resolved. An EEG was negative for 
epileptiform discharges or focal abnormalities. Patient is 
medically cleared for an inpatient psychiatric hospitalization.  


2. History of HTN: There is documentation of HTN in her chart 
from the OSH, however she is only on beta blockers, and she has 
been normotensive throughout her hospitalization with one 
episode of hypotension. Beta blockers were discontinued. 

3. Bipolar Disorder: Patient was continued on lithium and 
risperidone. She denied symptoms of mania but did endorse 
delusions of being an employee at her prior psychiatric 
facility. These delusions improved as her AMS resolved. Her 
trazodone was held in the setting of acute delerium. Her beta 
blockers were held in the setting of one episode of hypotension. 
Psychiatry was consulted. Patient received additional PRN doses 
of risperidone for agitation and subsequently developed 
worsening Parkinsonism. Her PRN doses were discontinued and 
standing dose reduced, and she received one dose of Cogentin. 
Her Parkinsonism continued and Risperidone was discontinued 
entirely. She was started on standing Cogentin 1 mg BID. 
Psychiatry recommended Zyprexa 2.5 mg BID PRN Agitation or 
audio/visual hallucinations but patient did not have subsequent 
agitation or AVH and thus Zyprexa was not started. Patient is 
medically cleared for inpatient psychiatric facility. She is 
admitted under ___, has a 1:1 sitter, and may not sign 
out AMA.  

4. White Oral Lesions: Upon admission, patient was very 
dehydrated and white oral lesions were noted. Initially 
concerning for oral candidiasis vs. skin sloughing in the 
setting of severe dehydration. The lesions improved with 
hydration and did not require further intervention. 

5. Dehydration: Patient presented with dry mucous membranes. She 
received IVF with improvement in clinical hydration status. 

6. Mildly elevated coags: Patient's coags were mildly elevated 
upon admission. She had no signs of bleeding and remained 
hemodynamically stable. Please continue to monitor as 
outpatient. 

7. Tachycardia: Patient was intermittently tachycardic in the 
setting of anxiety. Tachycardia resolved with PRN doses of 
Ativan, but we elected not to order a standing benzo in order to 
minimize delerium-inducing medications. Benzodiazepines were 
subsequently discontinued entirely. 

CHRONIC ISSUES: None

TRANSITIONAL ISSUES: 
- Continue to monitor Parkinsonism features and titrate atypical 
antipsychotic to minimize this side effect
- Minimize delerium-inducing agents including benzos and 
anticholinergics
- Monitor tachycardia, most likely anxiety related
- Patient has a record of UCx from ___ on ___ documenting 
growth of ___ CFU MRSA. ___ was unable to provide 
documentation of whether this infection was treated. We repeated 
a UA and UCx on ___, both of which were negative. Our 
medical team, and in consultation with ID, determined there was 
no evidence of active UTI infection nor indication for 
antibiotic treatment at this time. 
 
Medications on Admission:
Preadmissions medications listed are incomplete and require 
futher investigation.  Information was obtained from  ___ HRI 
records of home meds.
1. Artificial Tears 1 DROP BOTH EYES Q4H:PRN dry eye 
2. Benztropine Mesylate 1 mg PO TID 
3. lithium citrate *NF* 300 mg Oral BID 
4. Lorazepam 1 mg PO TID 
5. Metoprolol Tartrate 50 mg PO BID 
6. Propranolol 10 mg PO ONCE Duration: 1 Doses 
7. Risperidone 1 mg PO BID 
8. traZODONE 200 mg PO HS 
9. DiCYCLOmine 20 mg PO PRN abdominal cramping 
10. Benztropine Mesylate 1 mg PO PRN unclear 
11. Cyclobenzaprine 5 mg PO Frequency is Unknown unknown 
12. Milk of Magnesia 30 mL PO Q6H:PRN constipation 
13. Ibuprofen 400 mg PO Q8H:PRN body pain 
14. Risperidone 0.5 mg PO Q6H:PRN agitation, anxiety 
15. Tigan *NF* (trimethobenzamide) 300 mg Oral PRN nausea, 
vomiting 

 
Discharge Medications:
1. Ibuprofen 400 mg PO Q8H:PRN body pain 
2. Lithium Oral Solution 300 mg PO BID 
3. Artificial Tears 1 DROP BOTH EYES Q4H:PRN dry eye 
4. Milk of Magnesia 30 mL PO Q6H:PRN constipation 
5. Benztropine Mesylate 1 mg PO BID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Altered mental status

 
Discharge Condition:
Level of Consciousness: Lethargic but arousable.
Mental Status: Confused - sometimes.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure caring for you during your admission to ___ 
___. You were admitted for altered mental status. Although we 
are not entirely sure what caused your altered mental status, we 
believe your anticholinergic and sedating medications likely 
contributed. We stopped these medications and your mental status 
improved. 

During your hospitalization, you also developed worsening 
symptoms of Parkinsonism, a side effect of your atypical 
antipsychotic. We discontinued your Risperidone and started you 
on Cogentin. Your psychiatrist at your ___ facility will 
continue to adjust your antipsychotic dosing to minimize this 
side effect while maximizing the benefit. 

Once again, it was a pleasure caring for you and we wish you the 
best in your recovery, 

Sincerely, 

___, MD
 
Followup Instructions:
___